Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___
 
Chief Complaint:
Fever, cough, body aches.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
This is a ___ year female with past medical history significiant 
for SS disease, history of PE on coumadin, asthma, hepatitic C, 
personality disorder and chronic suicidality, multiple 
admissions in local area hospitals presents with fever and chest 
pain.  
.  
Was recently discharged from ___ on ___ to ___ 
___. Reports that starting 1 day prior to admission, 
she developed a fever elevation to 101.5. She also reported 
nonproductive cough, runny nose, and generalized muscle aches. 
Took motrin with no relief in her symptoms. Also reports that 
her chest pain (present during her prior admission) persists, 
described as a 9.5/10, sharp stabbing pain located in the 
substernal area and radiating down the left arm. Reports that 
this pain is chronic and related to past chest pain crisis. Not 
related to exertion or position.  
.  
Also reports some dysuria and soft stools but no diarrhea. 
Denied abdominal pain.  
.  
In the ED, initial VS were: T: 100.4, P: 124, BP: 133/83, R: 20, 
O2sat: 98% RA. ECG showed sinus tachycardia at 113 with old t 
wave inversions in V1-V3. Patient was given dilaudid 2mg IV X3, 
benadryl 50mg IV X 2, ceftriaxone 1g IV X 1, vancomycin 1g IV X 
1, and tylenol ___ PO X 1. A right femoral CVL was placed.  
 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations 
with pain crises discharge just 2 days prior for pain crisis.  
2) Pulmonary embolus in ___  
3) ? CVA in ___  
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
13) Lymphadenopathy L anterior cervical and R inguinal noted on 
last admission -- thought to be due to viral illness, with 
instructions to f/u with her PCP.
 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia
also fam hx of HTN, HL, DM type II, blindness

 
Physical Exam:
Vitals: T:99.1 BP:133/92 P:109 R: 18 O2: 94-98% RA  
.
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD. Mild tenderness over 
left submandibular gland.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, II/VI SEM heard 
across precordium, rubs, gallops  
Abdomen: soft, distractable pain generalized over the entire 
abdomen, non-distended, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
Complete Blood Count:
___ 10:00PM BLOOD WBC-12.2* RBC-2.02* Hgb-8.6* Hct-24.4* 
MCV-121* MCH-42.6* MCHC-35.2* Plt ___
___ 07:00AM BLOOD WBC-11.5* RBC-1.87* Hgb-7.8* Hct-22.6* 
MCV-121* MCH-41.8* MCHC-34.6 RDW-18.8* Plt ___
___ 10:00PM BLOOD Neuts-51.0 Lymphs-42.7* Monos-4.5 Eos-1.1 
Baso-0.7
___ 07:00AM BLOOD Neuts-57.5 Bands-0 ___ Monos-5.5 
Eos-1.8 Baso-0.5
.
Blood Smear:
___ 07:00AM BLOOD Hypochr-NORMAL Anisocy-3+ Poiklo-3+ 
Macrocy-1+ Microcy-NORMAL Polychr-2+ Target-3+ Schisto-1+ Tear 
Dr-2+ How-Jol-1+ Ellipto-3+
.
Coagulation Profile:
___ 10:00PM BLOOD ___ PTT-30.9 ___
___ 07:00AM BLOOD ___ PTT-30.6 ___
.
Complete Metabolic Profile:
___ 10:00PM BLOOD Glucose-98 UreaN-11 Creat-0.6 Na-133 
K-5.0 Cl-101 HCO3-23 AnGap-14
___ 07:00AM BLOOD Glucose-85 UreaN-8 Creat-0.5 Na-134 K-4.7 
Cl-99 HCO3-28 AnGap-12
___ 07:00AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.3
.
Cardiac Enzymes:
___ 10:00PM BLOOD CK(CPK)-54
___ 07:00AM BLOOD CK(CPK)-59
___ 10:00PM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-NotDone cTropnT-<0.01
.
Urine:
___ 06:33PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:33PM URINE Blood-MOD Nitrite-NEG Protein-  
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 06:33PM URINE ___ Bacteri-MOD Yeast-NONE 
___
.
Blood Culture: (___) No growth to date.
.
Influenza A and B by DFA: (___) Negative for Influenza A 
and B
.
Chest Xray: (___) IMPRESSION: No acute pulmonary process. 
In particular, there are no radiographic findings suggestive of 
acute chest syndrome. 
 
Brief Hospital Course:
Patient was recently discharge from ___ on ___.  Please see 
her prior discharge summary for further details.
.
This is a ___ female with a PMH significant for sickle cell 
disease, multiple pulmonary emboli, numerous recent 
hospitalizations at various area hospitals, being admitted from 
outside psychiatry facility with fever, myalgia, URI symptoms, 
and cough consistent with viral syndrome. All other medical 
issues appear stable.  
.  
#Fever: Patient was reportedly with fever of 101.5 at outside 
facility but temperature never found to be above 100 at ___ 
and was afebrile overnight.  Fever was associated with symptoms 
of runny nose, nonproductive cough, generalized myalgias, all of 
which were suggestive of viral syndrome.  Initial concern 
existed for H1N1, and she was placed on respiratory precautions 
with empiric treatment with oseltamivir.  In the emergency 
department, she was given one dose of vancomycin and ceftriaxone 
though imaging later revealed no evidence of pneumonia.  No 
antibiotics were continued upon reaching the floor.  Influeza 
DFA nasoswab was negative and oseltamivir and precautions were 
discontinued.  CXR and urine analysis were both negative.  
Leukocytosis improving, likely secondary to viral syndrome.  
Patient now defervescing with improvement in symptoms.  Blood 
cultures pending at the time of discharge with no growth to 
date.  She was given 1L IV NS.  Ibuprofen was continued for 
muscle aches.  She was medically cleared to return to 
psychiatric facility.
.  
#Chest Pain: Patient has chronic history of chest pain and was 
recently discharged with similar complaints.  Pain appears to be 
consistent with previous episodes of acute chest crisis, though 
no evidence of crisis on CXR or evidence of hypoxia.  She did 
not complain of pain unless asked.  All medication was crushed 
given that the patient was caught cheeking some medications 
during prior admission.  She was given IV dilaudid and PO 
benadryl due to itching during this admission.  She will be 
discharged on her home mrphine 30 mg Tablet Sustained Release PO 
Q8H and hydromorphone 4 mg PO every four hours. 
.  
# History of pulmonary Emboli: Patient has history of pulmonary 
embolus in ___, and ___.  Unclear as to why patient is 
predisposed to clot formation.  Has been on coumadin as an 
outpatient and is followed by ___ clinic but history of 
being non-compliant with medications.  Her INR was therapeutic 
upon presentation today.  Will continue coumadin 5mg PO daily, 
crushed prior to consumption.  Acute pulmonary embolus was of 
low suspicion as patient was not tachypnic and maintained high 
oxygen saturations.   
.  
# Sickle cell disease: Patient was continued on her home dose of 
hydroxyurea and folate.    
.
# Seizure disorder: Stable.  Patient was continued on outpatient 
dilantin.  
.  
# Borderline personality discorder/PTSD: Patient reported 
intermittent suicidal thoughts but denied having a plan.  She 
was continued on celexa and remeron.  Was seen by psych in 
house, who recommended discharge back to intermediate 
psychiatric care.  ___ in chart.  Patient to be 
discharged to psychiatric bed, stable from medical standpoint.  
.  
# Chronic Pain: She will be discharged on home regimen of 
dilaudid and morphine.  
. 
# Asthma: Stable.  She was continued on home dose of albuterol 
prn.
 
Medications on Admission:
1. Mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

2. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a  
day).  
4. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY  
(Daily).  
5. Promethazine 25 mg Tablet Sig: ___ Tablets PO Q6H (every 6  
hours) as needed for nausea.  
6. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
 
PO BID (2 times a day).  
7. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at  
bedtime).  
8. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
9. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___  
Drops Ophthalmic TID (3 times a day) as needed for irritation.  
10. Folic Acid 1 mg Tablet Sig: Three (3) Tablet PO DAILY  
(Daily).  
11. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4  

___.  
12. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig:  

Two (2) Puff Inhalation every six (6) hours as needed for  
shortness of breath.  
13. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
14. Ocean Nasal 0.65 % Aerosol, Spray Sig: One (1) spray  
intranasally Nasal every four (4) hours as needed for cold  
symptoms.  
15. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO  
Q6H (every 6 hours) as needed for itching.  
16. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8  

hours) as needed for pain.  
17. Hydroxyzine HCl 50 mg Tablet Sig: One (1) Tablet PO every  
six (6) hours as needed for itching.  
18. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
 
needed for constipation.  
19. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8)  
hours as needed for nausea.  
20. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet  

Sustained Release PO every eight (8) hours as needed for pain:  
hold for sedation, rr<12.  
21. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO every four  

(4) hours as needed for pain: hold for sedation, rr<12.
 
Discharge Medications:
1. Mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

2. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day.  
4. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. Promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for nausea.  
6. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
PO BID (2 times a day).  
7. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
8. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Folic Acid 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
10. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
11. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for 
shortness of breath or wheezing.  
12. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO 
Q6H (every 6 hours) as needed for itching.  
14. Ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed for pain.  
15. Hydroxyzine HCl 25 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for itching.  
16. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
17. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
18. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q8H (every 8 hours) as needed for pain.  
19. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed for dryness.  
20. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO every four 
(4) hours: Hold for respiratory sedation, rr<12.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-Viral syndrome
-Sickle cell disease
-chronic chest pain
.
Secondary:
-History of recurrent pulmonary embolus
-Borderline personality disorder/PTSD with history of suicidal 
ideation
-Transfusion related hepatitis C

 
Discharge Condition:
Vital signs stable, without fevers.  

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital with a fever, 
cough, runny nose, and muscle aches.  Your laboratory tests 
showed that you did not have the flu.  You likely have a viral 
syndrome that will improve over the next several days.  You were 
given IV fluids, pain control, and medication to help with your 
body aches.  You also reported chest pain, which seemed to be 
consistent with your previous pain crisis from your sickle cell 
disease.  Your ECG, and cardiac enzymes did not show any signs 
of a heart attack.  Your chest xray showed no changes.
.
We have made no changes to your medications.  Please take your 
medications as previously directed prior to your 
hospitalization.
.
Should you develop worsening fever, chills, chest pain, 
shortness of breath, please contact your primary care physician 
or go to the emergency room.
 
Followup Instructions:
___